2124-03-08 09:19:00 Physician Attending Progress Note
Chief Complaint: SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with h/o MVR on coumadin, history of multiple falls.
   Presents with fall, head CT with left temporal SDH.  INR was 8.0,
   Given FFP and IV vitamin K.  Came to our ED.  vitals notable for fever
   of 101.  CT here of abd pelvis also showed left buttock hematoma.   Was
   transiently HOTNsive in ED.  Got 500cc NS bolus with improved.  Hct was
   23 in ED, guaiac positive, NGL was negative.  Got 2U FFP for INR of
   2.8, got IV protonix, 2U PRBC.  Also required 3L of oxygen.    Had
   sinus brady with nausea and vomitting.  Dig level was 3.0.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-3-8**] 06:20 AM
   Other medications:
   keppra
   zofran
   fioricent
   compazine
   Changes to medical and family history:
   PMHX:
   MVR in [**8-27**] at [**Hospital1 1031**], also had CABG times 1 at the time.
   h/o foot surgery
   chronic AF on dig
   SHx:
   occasional  ETOH
   prior smoker
   FHx:
   2 children with DM, 1 son with lung CA.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-8**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 0 (0 - 92) bpm
   BP: 122/54(69) {88/30(46) - 135/73(82)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
           1,105 mL
   PO:
           TF:
   IVF:
   100 mL
   Blood products:
   1,005 mL
   Total out:
                                                                      0 mL
                                                                    945 mL
   Urine:
   945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, brown guaiac
   positive stool as per GI
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, left buttock hematoma, firm and tender
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): hospital, and knew year/month, Movement: Not
   assessed, Tone: Not assessed, somewhat confused and perseverating
   Labs / Radiology
   261
   1.1
   27
   5.3
   31
   105
   143
   23.5
   9.9
        [image002.jpg]
   Other labs: PT / PTT / INR:17.2/26.2/1.5, Differential-Neuts:85
   Fluid analysis / Other labs: U/A was negative
   Imaging: CXR: clear
   Assessment and Plan
   Anemia:  likely due to hematomas in buttock.  Stool is brown guaiac
   positive.  Doubt large GI bleed.
   SDH:  will need repeat head CT and frequent neuro checks.  Continue
   keppra
   coagulopathy:  INR now 1.5.  If head CT stable, can restart heparin
   without bolus.
   Falls:  unclear why she is falling.  Bradycardia may be playing a role,
   versus peripheral neuropathy.
   Afib:  holding dig and beta blocker in setting of bradycardia and high
   dig level.
   Fevers:  unclear source.  Checking blood cx, and u/a, could be from
   hematoma
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-3-8**] 03:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-03-09 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2124-3-8**] 08:59 AM
 TRANSTHORACIC ECHO - At [**2124-3-8**] 11:09 AM
 FEVER - 101.5
F - [**2124-3-9**] 12:00 AM
   - Head CT from today stable; plan for repeat head CT in AM
   - TTE: LVEF 65-70% (consistent with prior); 1+ AR; normal LV motion;
   moderate TR; moderate pulm artery systolic HTN as well as diastolic
   HTN; significant PR
   - Elbow films WNL
   - Patient remained altered throughout day after single dose of
   compazine; pulled out 3 PIV's despite wrist restraints and now has
   compromised access
   - Hct stable over day at 26 -> 27, but then decreased to 23.9 with AM
   labs. Ordered 1 unit pRBCs, then repeat HCT check.
   - Spiked to 102 at ~midnight; could not be recultured b/c last cx
   within 24 hours; ordered for acetaminophen for fever and [**Year (4 digits) 14697**] for
   pain, but nurse [**First Name (Titles) 14698**] [**Last Name (Titles) 14697**] would make pt nauseous so also ordered
   for morphine
   - Multiple episodes of guaiac-negative diarrhea; sent stool studies
   - Agitated at 4:45 am; ordered 1-time dose of Zyprexa
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-3-8**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-8**] 10:00 PM
   Morphine Sulfate - [**2124-3-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-9**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.9
   HR: 85 (0 - 88) bpm
   BP: 122/23(49) {101/23(49) - 143/105(108)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,375 mL
                                                                    627 mL
   PO:
           TF:
   IVF:
                                                                    370 mL
                                                                    252 mL
   Blood products:
                                                                  1,005 mL
                                                                    375 mL
   Total out:
                                                                  2,055 mL
                                                                    290 mL
   Urine:
                                                                  2,055 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented to hospital in [**Location (un) **], year, month
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP elevated to 10cm, no LAD
   Lungs: Bibasilar fine crackles, no wheezes
   CV: Irregularly irregulary, no murmurs, mechanical S2
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: + foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Buttocks: L buttock with 6-7cm firm hematoma with surrounding
   ecchymosis, tender on palpation
   .
   Labs / Radiology
   201 K/uL
   8.2 g/dL
   124 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   24.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-3-8**]  08:23 AM
                             [**2124-3-8**]  02:39 PM
                             [**2124-3-8**]  02:40 PM
                             [**2124-3-8**]  08:07 PM
                             [**2124-3-9**]  01:28 AM
   WBC
   10.3
   9.7
   Hct
   28.6
   26.0
   27.1
   24.0
   Plt
   249
   201
   Cr
   0.9
   0.9
   0.8
   Glucose
   118
   128
   124
   Other labs: PT / PTT / INR:13.9/26.2/1.2,
   ALT / AST:15/32, Alk Phos / T Bili:115/2.1, LDH:379 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Dig: 1.0
   CT HEAD:
   IMPRESSION: No significant short-interval change in the relatively thin
   acute-on-chronic subdural hematoma layering over much of the left
   cerebral
   convexity. The largest and likely most acute component, in the
   superficial
   left middle cranial fossa, now measures 9 mm in maximal thickness.
   RIGHT ELBOW RADIOGRAPH, THREE VIEWS: The is exam is WNL. There is no
   acute
   fracture or dislocation. The visualized osseous structures are in good
   anatomic alignment. No elbow joint effusion is noted. The underlying
   soft
   tissues are unremarkable.
   Assessment and Plan
   78yo F w/hx of atrial fibrillation, mechanical MVR who presents with
   multiple falls and found to have a SDH, hematocrit drop, hypotension in
   the setting of an INR of 8.0.
   .
   1. Anemia: Likely due to bleeding given her supratherapeutic INR and
   history of falls.  Buttock hematoma as well as GI bleed are all sources
   of bleeding in this patient.  SDH unlikely to be contributing.  In
   terms of GI bleed appears to be lower given her negative NG lavage.
   She does have a history of PUD per report and may have a duodenal ulcer
   accounting for negative NG lavage.  Bleeding is likely to stop after
   coagulopathy is reversed.
   - INR reversed with FFP (4 units thus far), vitamin K (10mg IV given)
   - transfuse to keep HCT> 25 in the setting of cardiac disease
   - 1 PRBC this AM  -
 check post-transfusion HCT
   - f/u GI recommendations regarding plans for scope
   - NPO
   - continue protonix IV BID
   - active T&S, 2 peripheral IVs
   - F/U Head CT
   .
   2. Mechanical Mitral Valve: She is at increased risk of clot given
   location of valve and also hx of afib.
   - will coordinate with neurosurgery anticoagulation in setting of
   subdural hematoma
   - Consider heparin gtt with goal PTT 40-50
   .
   3. Subdural Hematoma: per neurosurgery, not a surgical candidate and
   the bleed is small.  Mental status is not completely clear but she has
   an unclear baseline and states she hasn't felt right since her son
   died.
   - [**Name2 (NI) **] 1000mg IV x 1, then 750mg IV BID for seizure prophylaxis
   - repeat head CT this AM
   - q2 hour neuro checks
   - f/u neurosurgery recs
   .
   4. Multiple Falls: unclear why she is falling now.  [**Month (only) 51**] be related to
   SDH vs. peripheral neuropathy vs. chronic foot problems.
   - check B12 level, TSH
   - RPR
   - consider NPH although no incontinence per patient
   - consider neurology evaluation as an outpatient for neuropathy/gait
   disturbance
   - PT consult when medically stable
   .
   5. Atrial Fibrillation: rate-controlled
   - hold b-blocker in the setting of acute bleed
   - restart digoxin on home dose
   - hold anticoagulation currently
   .
   6. Fevers: Previously attributed to FFP administration.  CXR does not
   show PNA.  [**Month (only) 51**] be due to blood resorption from hematoma. UA negative
   for infection.
   - check blood cultures after 24 hours from last set
   - F/u all micro
   .
   7. Hypoxia: Currently requring 3L NC. Possibly due to volume overload
   in the setting of blood products and normal saline.  Unknown EF but she
   is on lasix PO at home.
   - Lasix 10mg IV x 1
   - echo in am
   .
   # FEN: No IVF, replete electrolytes, NPO for now pending GI eval and
   serial HCTs
   # Prophylaxis: pneumoboots
   # Access: peripheral x 3
   # Communication: Patient and daughter [**Name (NI) 1130**] [**Telephone/Fax (1) 14681**]; [**Name2 (NI) **] is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-8**] 09:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-03-09 10:38:00 Physician Attending Progress Note
Chief Complaint: SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo women with SDH after fall.  CT head this morning shows stable
   appearance.   No further episodes of asystole.
   24 Hour Events:
 BLOOD CULTURED - At [**2124-3-8**] 08:59 AM
 TRANSTHORACIC ECHO - At [**2124-3-8**] 11:09 AM
 FEVER - 101.5
F - [**2124-3-9**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-3-9**] 03:00 AM
   Pantoprazole (Protonix) - [**2124-3-9**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-9**] 07:38 AM
   Other medications:
   [**Year (4 digits) 5122**]
   protonix
   hep s/q
   Zofran
   fioricet
   compazine
   [**Year (4 digits) 14697**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-9**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.4
   HR: 88 (45 - 89) bpm
   BP: 116/54(68) {101/23(49) - 143/105(108)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,375 mL
                                                                    964 mL
   PO:
           TF:
   IVF:
                                                                    370 mL
                                                                    589 mL
   Blood products:
                                                                  1,005 mL
                                                                    375 mL
   Total out:
                                                                  2,055 mL
                                                                    370 mL
   Urine:
                                                                  2,055 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                    596 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name, date, president , Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   201 K/uL
   124 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   31 mg/dL
   108 mEq/L
   144 mEq/L
   24.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-3-8**]  08:23 AM
                             [**2124-3-8**]  02:39 PM
                             [**2124-3-8**]  02:40 PM
                             [**2124-3-8**]  08:07 PM
                             [**2124-3-9**]  01:28 AM
   WBC
   10.3
   9.7
   Hct
   28.6
   26.0
   27.1
   24.0
   Plt
   249
   201
   Cr
   0.9
   0.9
   0.8
   Glucose
   118
   128
   124
   Other labs: PT / PTT / INR:13.9/26.2/1.2, ALT / AST:15/32, Alk Phos / T
   Bili:115/2.1, LDH:379 IU/L, Ca++:8.3 mg/dL, Mg++:2.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   SDH:  stable, will start heparin drip this afternoon without bolus.
   Goal PTT 40-50 after checking with NSG
   Anemia:  no melena.  [**Month (only) 51**] be due to buttock hematoma.  Transfuse.
   MVR:  at high risk of stroke off anticoagulation
   advance diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-8**] 09:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes